US08981085B2
A mixture of N-(4-chloro-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxyacetamide (154 mg, 0.501 mmol), (R)-tert-butyl piperidin-3-ylcarbamate (301 mg, 1.50 mmol) and DIEA (0.17 mL, 1.00 mmol) in NMP (2 mL) was stirred at 156° C. for 10 hours. The solvent was removed in vacuo. The residue obtained was dissolved in ethyl acetate (20 mL), washed with water (10 mL) and followed by brine (10 mL). The organic layer was separated, dried (Na2SO4), and concentrated in vacuo. The residue obtained was purified by C-18 reverse phase flash chromatography (Biotage SP4 unit, C-18, 25M+ column, 30-70% CH3CN/water gradient; 30 CV). The solid isolated was dissolved in DCM (3 mL), and TFA (0.5 mL) was added. The mixture was stirred at room temperature for 1 hour, and the solvent was removed in vacuo. The resulting residue was dissolved in DCM (1 mL) and treated with 2N HCl in ether (3 mL). The solid formed was collected by filtration and dried to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxyacetamide hydrochloride (61 mg, 27% yield) as a solid. 1H NMR (400 MHz, D2O) δ 8.42 (s, 1H), 7.52 (s, 1H), 4.12 (s, 2H), 3.40 (s, 3H), 3.38 (m, 2H), 2.96 (m, 3H), 2.00 (m, 1H), 1.73 (m, 1H), 1.68 (m, 1H), 1.54 (m, 1H); LCMS (APCI+) m/z 372 (M+H)+.

reactant | N-(4-chloro-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxyacetamide | 0.501 mmol, 154 mg | ClC1=C2C(=NC=C1C(F)(F)F)NC=C2NC(COC)=O | C11H9ClF3N3O2
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 1.50 mmol, 301 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | DIEA | 1.00 mmol, 0.17 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxyacetamide hydrochloride | 61 mg, 27% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1C(F)(F)F)NC=C2NC(COC)=O | InChI=1S/C16H20F3N5O2.ClH/c1-26-8-12(25)23-11-6-22-15-13(11)14(10(5-21-15)16(17,18)19)24-4-2-3-9(20)7-24;/h5-6,9H,2-4,7-8,20H2,1H3,(H,21,22)(H,23,25);1H/t9-;/m1./s1
